US06787558B2
c) (4-Chloro-2-methyl-quinolin-7-yl)-methanol
Diisobutylaluminum hydride (1 M solution in tetrahydrofuran, 80 mL, 80 mmol) was added dropwise at 0° C. to a solution of 4-chloro-2-methyl-quinoline-7-carboxylic acid ethyl ester (4.42 g, 17.7 mmol) in tetrahydrofuran (90 mL), then after stirring 1 h at 0° C. the reaction was quenched by careful addition of methanol (4.5 mL) and 1 M aq. potassium sodium tartrate solution (135 mL). The two-phase mixture was stirred 30 min, then extracted twice with ethyl acetate. The organic phases were washed with brine, dried (MgSO4) and evaporated. Chromatography (SiO2, hexane/ethyl acetate 1:1 afforded the title compound (2.62 g, 71%). Off-white solid, EI-MS: m/e==207.2 (M30 ).

reactant | Diisobutylaluminum hydride | 80 mmol, 1 M, 80 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-chloro-2-methyl-quinoline-7-carboxylic acid ethyl ester | 17.7 mmol, 4.42 g | C(C)OC(=O)C1=CC=C2C(=CC(=NC2=C1)C)Cl | C13H12ClNO2
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
product | (4-Chloro-2-methyl-quinolin-7-yl)-methanol | 2.62 g, 71% | ClC1=CC(=NC2=CC(=CC=C12)CO)C | C11H10ClNO
